US04735940
0.83 g of 4-oxo-3-(α,α,α-trifluoro-m-tolyl)-4H-quinolizine-1-carboxylic acid was heated to reflux in a mixture of 13 ml of concentrated hydrochloric acid and 6.5 ml of acetic acid until the reaction was completed. The solution was evaporated, whereupon 10 ml of water are added. The crystals were removed by filtration and dried. After chromatography on silica gel and recrystallization, there was obtained 3-(α,α,α-trifluoro-m-tolyl)-4H-quinolizin-4-one as yellow crystals of m.p. 110°-111° (n-hexane/toluene).

reactant | 4-oxo-3-(α,α,α-trifluoro-m-tolyl)-4H-quinolizine-1-carboxylic acid | 0.83 g | O=C1C(=CC(=C2C=CC=CN12)C(=O)O)C=1C=C(C=CC1)C(F)(F)F | C17H10F3NO3
solvent | hydrochloric acid | 13 ml | Cl | ClH
solvent | acetic acid | 6.5 ml | C(C)(=O)O | C2H4O2
product | 3-(α,α,α-trifluoro-m-tolyl)-4H-quinolizin-4-one | FC(C1=CC(=CC=C1)C1=CC=C2C=CC=CN2C1=O)(F)F | C16H10F3NO
